US06686363B2
2,6-Difluoro-4-nitrophenylacetic Acid
The title compound 2,6-difluoro-4-nitrophenylacetic acid (16.0 g) was prepared from 3,4,5-trifluoronitrobenzene (14.8 g) and diethyl malonate (35 mL) in the same manner as described for REFERENCE EXAMPLE 1. MS (EI+) m/z: 217 (M+).

reactant | 3,4,5-trifluoronitrobenzene | 14.8 g | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | diethyl malonate | 35 mL | C(CC(=O)OCC)(=O)OCC | C7H12O4
product | 2,6-difluoro-4-nitrophenylacetic acid | 16.0 g | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)CC(=O)O | C8H5F2NO4
